US04036965
15.8 g of pyridine are added to an ethereal solution of one equivalent of methyl lithium, while stirring and maintaining a nitrogen atmosphere. The mixture is stirred for 16 hours at room temperature and then a solution of 13.5 g of n-butyldisulfide in 100 ml of tetrahydrofuran is added dropwise to the mixture. Then it is stirred for 6 hours at room temperature. The mixture is diluted with a mixture of ether plus water and the organic phase separated. The organic layer is washed with a saturated solution of potassium chloride, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated to an oil. This oil is dissolved in ether and the ethereal solution extracted twice with 4N-sulfuric acid. The aqueous acidic layer is separated, cooled in ice, is made basic and the basic solution is extracted twice with ether. The ethereal extracts are combined, the combined ethereal solution is washed with water, dried, filtered and the filtrate evaporated to an oil. This oil is distilled to yield 5-n-butylmercapto-2-methyl-pyridine boiling at 77°-91°/0.1 mmHg.

reactant | pyridine | 15.8 g | N1=CC=CC=C1 | C5H5N
reactant | methyl lithium | one equivalent | C[Li]
reactant | n-butyldisulfide | 13.5 g | C(CCC)SSCCCC | C8H18S2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 5-n-butylmercapto-2-methyl-pyridine | C(CCC)SC=1C=CC(=NC1)C | C10H15NS
